US06235730B1
A mixture of acetanilide (6.0 g), 2-iodothiophene (18.6 g), copper iodide (864 mg), and potassium carbonate (12.2 g) was heated for 2 hours at 150° C. After the mixture was allowed to cool, water and ethyl acetate were added thereto. The resulting mixture was stirred, then filtered with celite. The aqueous phase was extracted. The organic phase was washed with water and saturated brine, and dried over sodium sulfate. The resulting solution was filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent, ethyl acetate:hexane=1:5) to obtain N-(2-thienyl)acetanilide (1.77 g; yield, 18%) as a light brown solid.

reactant | acetanilide | 6.0 g | C(C)(=O)NC1=CC=CC=C1 | C8H9NO
reactant | 2-iodothiophene | 18.6 g | IC=1SC=CC1 | C4H3IS
reactant | potassium carbonate | 12.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
catalyst | copper iodide | 864 mg | [Cu](I)I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2-thienyl)acetanilide | 1.77 g, 18% | S1C(=CC=C1)N(C1=CC=CC=C1)C(C)=O | C12H11NOS
